US08871187B2
100 mg (0.311 mmol) of TBTU and 0.1 ml (0.715 mmol) of triethylamine are added to 55 mg (0.311 mmol) of 3-(1H-imidazol-4-yl)propionic acid hydrochloride in 1 ml of DMF. After 10 minutes, 99 mg (0.256 mmol) of (R)-2-amino-1-(3-cyclohexyl-3-pentylazetidin-1-yl)-3-(4-methoxyphenyl)propan-1-one dissolved in 1 ml of DMF are added. After stirring for 118 hours at ambient temperature, the reaction medium is extracted with a 1/2 heptane/EtOAc mixture and washed with 1N sodium hydroxide and a saturated sodium chloride solution. The organic phase is dried over MgSO4, filtered and concentrated. The residue is purified on a silica column (eluent 9/1 DCM/MeOH). 72 mg of N—[(R)-2-(3-cyclohexyl-3-pentylazetidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]-3-(1H-imidazol-4-yl)propionamide are obtained in the form of a white powder, with a yield of 55%.

reactant | TBTU | 0.311 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.715 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(1H-imidazol-4-yl)propionic acid hydrochloride | 0.311 mmol, 55 mg | Cl.N1C=NC(=C1)CCC(=O)O
reactant | (R)-2-amino-1-(3-cyclohexyl-3-pentylazetidin-1-yl)-3-(4-methoxyphenyl)propan-1-one | 0.256 mmol, 99 mg | N[C@@H](C(=O)N1CC(C1)(CCCCC)C1CCCCC1)CC1=CC=C(C=C1)OC | C24H38N2O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N—[(R)-2-(3-cyclohexyl-3-pentylazetidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]-3-(1H-imidazol-4-yl)propionamide | 72 mg, yield of 55% | C1(CCCCC1)C1(CN(C1)C([C@@H](CC1=CC=C(C=C1)OC)NC(CCC=1N=CNC1)=O)=O)CCCCC | C30H44N4O3
